US09376418B2
Nitrogen was bubbled through a solution of 2,4-dibromopyridine (0.25 g, 1.06 mmol) in THF (2 ml) for ˜10 minutes. Tetrakis(triphenylphosphine)palladium(0) (0.122 g, 0.106 mmol) was added and the flask sealed with a septa. Bromo (3-ethoxy-3-oxopropyl)zinc (3.17 ml, 1.58 mmol) was added slowly via syringe and the reaction mixture was heated at 85° C. for 16 hours. Upon cooling, the reaction mixture was partitioned between DCM and brine. The organic layer was dried (Na2SO4), concentrated under reduced pressure and the residue was purified by silica gel chromatography (gradient elution with EtOAc/Hexanes 7 to 60%) to give ethyl 3-(4-bromopyridin-2-yl)propanoate as a pale yellow oil. MS ESI calc'd. for C10H13BrNO2 [M+H]+ 258 and 260. found 258 and 260. 1H NMR (500 MHz, CDCl3) δ 8.33 (d, J=5.1 Hz, 1H), 7.39 (bs, 1H), 7.30 (dd, J=5.2, 1.7 Hz, 1H), 4.12 (q, J=6.7 Hz, 2H), 3.08 (t, J=6.5 Hz, 2H), 2.79 (t, J=6.4 Hz, 2H), 1.23 (t, J=6.8 Hz, 3H).

reactant | 2,4-dibromopyridine | 1.06 mmol, 0.25 g | BrC1=NC=CC(=C1)Br | C5H3Br2N
reactant | Bromo (3-ethoxy-3-oxopropyl)zinc | 1.58 mmol, 3.17 ml | Br[Zn]CCC(=O)OCC
solvent | THF | 2 ml | C1CCOC1 | C4H8O
catalyst | Tetrakis(triphenylphosphine)palladium(0) | 0.106 mmol, 0.122 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | ethyl 3-(4-bromopyridin-2-yl)propanoate | BrC1=CC(=NC=C1)CCC(=O)OCC | C10H12BrNO2
